US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (72 mg, 0.37 mmol) and 3-iodoaniline (1.25 g, 5.71 mmol) is stirred at 160° C. for 30 min. The resulting product is chromatographed over silica gel (5-7% MeOH/CH2Cl2) to give 7-amino-4-(3-iodoanilino)pyrido[4,3-d]pyrimidine (83 mg, 61%) as a light brown rosettes. 1H NMR (DMSO) δ 9.84 (1H, brs), 9.34 (1H, s), 8.44 (1H, s), 8.30 (1H, brs), 7.90 (1H, dd, J=7.9, 0.8 Hz), 7.47 (1H, d, J=7.7 Hz), 7.18 (1H, t, J=8.0 Hz), 6.66 (2H, brs), 6.46 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 0.37 mmol, 72 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-iodoaniline | 5.71 mmol, 1.25 g | IC=1C=C(N)C=CC1 | C6H6IN
product | 7-amino-4-(3-iodoanilino)pyrido[4,3-d]pyrimidine | 83 mg, 61% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)I | C13H10IN5
